US06638646B2
Synthesis of 2,5-bishydroxymethyl-4-methoxy-4′-(3,7-dimethyloctyloxy)biphenyl
LiAlH4 (7.9 g, 208 mmol) was initially introduced with about 250 ml of THF under an argon blanket. Diethyl 2-[4-(3,7-dimethyloctyloxy)phenyl]-5-methoxyterephthalate (72.2 g, 149 mmol) was diluted with about 60 ml of THF in a dropping funnel and slowly added dropwise. During this addition, the reaction mixture was stirred vigorously. The batch, diluted with a further 100 ml of THF, was then refluxed at 67° C. After 2 hours, it was cooled to RT. When the reduction was complete, 8 ml of water were carefully added for work-up. 8 ml of aqueous NaOH solution (15% strength) were subsequently added, and finally 24 ml of water were added. After each addition, the mixture was stirred for about a further 15 minutes (“1:1:3 method”). The solid formed was filtered off with suction and again stirred with THF, and finally the combined organic phases were evaporated. Recrystallization from hexane/ethyl acetate (20:1) gave the product (93% yield) as colorless crystals.

reactant | LiAlH4 | 208 mmol, 7.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Diethyl 2-[4-(3,7-dimethyloctyloxy)phenyl]-5-methoxyterephthalate | 149 mmol, 72.2 g | CC(CCOC1=CC=C(C=C1)C1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)OC)CCCC(C)C | C29H40O6
reactant | water | 8 ml | O | H2O
reactant | NaOH | 8 ml | [OH-].[Na+]
reactant | water | 24 ml | O | H2O
solvent | THF | about 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | about 250 ml | C1CCOC1 | C4H8O
product | 2,5-bishydroxymethyl-4-methoxy-4′-(3,7-dimethyloctyloxy)biphenyl | 93% yield | OCC1=C(C=C(C(=C1)OC)CO)C1=CC=C(C=C1)OCCC(CCCC(C)C)C | C25H36O4
